US08378107B2
Step 2: Benzyl-(3-bromo-quinolin-2-ylmethyl)-carbamic acid tert-butyl ester
Prepared according to the procedure described in Example 5, Step 2, using the following starting materials: benzyl-(3-bromo-quinolin-2-ylmethyl)-amine and di-tert-butyl dicarbonate.

reactant | benzyl-(3-bromo-quinolin-2-ylmethyl)-amine | C(C1=CC=CC=C1)NCC1=NC2=CC=CC=C2C=C1Br | C17H15BrN2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | Benzyl-(3-bromo-quinolin-2-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=NC2=CC=CC=C2C=C1Br)CC1=CC=CC=C1)=O | C22H23BrN2O2
